US07241460B2
Production of Strontium Glutarate
Strontium carbonate (1.0 g, 6.77 mmol) and glutaric acid (0.89 g, 6.77 mmol) in water (30 ml) were stirred over night at 70° C. The mixture was filtered and the filtrate was evaporated to dryness and dried in vaccuo at ambient temperature. The title compound was isolated. Yield 1.23 g (83%).

reactant | Strontium carbonate | 6.77 mmol, 1.0 g | C([O-])([O-])=O.[Sr+2]
reactant | glutaric acid | 6.77 mmol, 0.89 g | C(CCCC(=O)O)(=O)O | C5H8O4
solvent | water | 30 ml | O | H2O
product | Strontium Glutarate | C(CCCC(=O)[O-])(=O)[O-].[Sr+2] | InChI=1S/C5H8O4.Sr/c6-4(7)2-1-3-5(8)9;/h1-3H2,(H,6,7)(H,8,9);/q;+2/p-2
